US07462427B2
Step 1: Preparation of (2,3-Difluorophenyl)nonan-1-ol
Butyllithium (2.5 M in hexanes 52.5 ml, 0.131 mol) was added dropwise to a stirred, cooled (−78° C.) solution of difluorobenzene (12.0 g, 0.105 mol) in dry THF (400 ml) under a stream of dry nitrogen. The reaction mixture was maintained under these conditions for 2.5 h and a solution of nonanal (14.9 g, 0.105 mol) in dry THF (50 ml) was added dropwise at −78° C. The mixture was allowed to slowly reach room temperature overnight. Ammonium chloride solution (2M, 200 ml) was added and the product was extracted into ether (2×150 ml), the combined ethereal extracts were washed with water and dried (MgSO4). The solvent was removed in vacuo and the residue was distilled under reduced pressure to give a colourless oil.

reactant | Butyllithium | 0.131 mol, 2.5 M, 52.5 ml | C(CCC)[Li]
reactant | difluorobenzene | 0.105 mol, 12.0 g | FC1=C(C=CC=C1)F | C6H4F2
reactant | nonanal | 0.105 mol, 14.9 g | C(CCCCCCCC)=O | C9H18O
reactant | Ammonium chloride | 2M, 200 ml | [Cl-].[NH4+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2,3-Difluorophenyl)nonan-1-ol | FC1=C(C=CC=C1F)C(CCCCCCCC)O | C15H22F2O
